US09145380B2
(2R)—N-[2-Chloro-4-[(2-sulfamoylphenyl)sulfamoyl]phenyl]-3,3,3-trifluoro-2-hydroxy-2-methyl-propanamide
To a solution of 3-chloro-4-[[(2R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propanoyl]amino]benzenesulfonyl chloride (110 mg, 0.3 mmol) in DCM (5 ml) and pyridine (30 μl, 0.33 mmol) was added DMAP (˜2 mg) followed by 2-aminobenzenesulfonamide (52 mg, 0.3 mmol). The resulting mixture was stirred at RT for 18 h. The solution was concentrated and partitioned between ethyl acetate (6 ml) and 1M HCl (5 ml). The organic layer was separated, washed with saturated NaHCO3, dried (MgSO4) and evaporated to give a gum which was dissolved in a small amount of ethyl acetate and then iso-hexane was added to precipitate the title compound as a solid. LCMS 502.2 (M+H), Rf 7.64 min. [Column: HYPERSIL ODS; Flow Rate: 1.5 ml/min; Detector Wavelength: 254 nm; Solvent A: 0.1% Formic Acid in Water; Solvent B: 0.1% Formic Acid in Acetonitrile; Gradient: 5-95% B]

reactant | 3-chloro-4-[[(2R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propanoyl]amino]benzenesulfonyl chloride | 0.3 mmol, 110 mg | ClC=1C=C(C=CC1NC([C@@](C(F)(F)F)(C)O)=O)S(=O)(=O)Cl | C10H8Cl2F3NO4S
reactant | pyridine | 0.33 mmol, 30 μl | N1=CC=CC=C1 | C5H5N
reactant | 2-aminobenzenesulfonamide | 0.3 mmol, 52 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | iso-hexane | CCCC(C)C | C6H14
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | ˜2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)—N-[2-Chloro-4-[(2-sulfamoylphenyl)sulfamoyl]phenyl]-3,3,3-trifluoro-2-hydroxy-2-methyl-propanamide | ClC1=C(C=CC(=C1)S(NC1=C(C=CC=C1)S(N)(=O)=O)(=O)=O)NC([C@@](C(F)(F)F)(C)O)=O | C16H15ClF3N3O6S2
